US09302989B2
N-(1′-butyryl-1′,2′,3′,6′-tetrahydro-3,4′-bipyridin-6-yl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting butyryl chloride for acetyl chloride and N-(5-(1,2,3,6-tetrahydropyridin-4-yl)pyridin-2-yl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.92-8.95 (bs, 1H), 8.32-8.35 (m, 1H), 7.64-7.97 (m, 2H), 6.94-7.38 (m, 4H), 6.16-6.22 (bs, 1H), 4.45-5.02 (m, 4H), 4.08-4.15 (m, 2H), 3.62-3.68 (m, 2H), 2.23-2.65 (m, 4H), 1.46-1.64 (m, 2H), 0.87-0.93 (m, 3H); MS (ESI(+)) m/e 391 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(5-(1,2,3,6-tetrahydropyridin-4-yl)pyridin-2-yl)isoindoline-2-carboxamide | N1CCC(=CC1)C=1C=CC(=NC1)NC(=O)N1CC2=CC=CC=C2C1 | C19H20N4O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-(1′-butyryl-1′,2′,3′,6′-tetrahydro-3,4′-bipyridin-6-yl)-1,3-dihydro-2H-isoindole-2-carboxamide | C(CCC)(=O)N1CCC(=CC1)C=1C=NC(=CC1)NC(=O)N1CC2=CC=CC=C2C1 | C23H26N4O2
